US09290465B2
Manganese dioxide (14.0 g, 161 mmol) was added to a solution of [5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-methanol (4.04 g, 13.77 mmol) in chloroform. The resulting mixture was heated to 60° C. for 10 min after which it was filtered through Celite and the filtrate washed with CH2Cl2. Volatiles were removed under reduced pressure. The crude mixture was dry-loaded onto silica gel and 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde (2.44 g, 61%) was isolated by chromatography (60% ethyl acetate in hexane).

reactant | [5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-methanol | 13.77 mmol, 4.04 g | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)CO)C=C1 | C14H15NO4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 161 mmol, 14.0 g | [O-2].[O-2].[Mn+4]
product | 5-(4-methanesulfonyl-benzyloxy)-pyridine-2-carbaldehyde | 2.44 g, 61% | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)C=O)C=C1 | C14H13NO4S
